US05317017
Step A: 4-Methyl-1-tetralone oxime
A solution of 801 mg (5.0 mmol) of 4-methyl-1-tetralone in 20 mL of dry methanol was treated with 417 mg of hydroxylamine hydrochloride (6.0 mmol, 1.2 eq) and 504 mg (6.0 mmol, 1.2 eq) of sodium bicarbonate and the resulting mixture was stirred at room temperature for 16 hours. The solid was filtered off and the solvent was removed under vacuum. The white residue was redissolved in 10 mL of methylene chloride and filtered. The filtrate was evaporated to dryness under vacuum to give the product in quantitative yield. 1H NMR (400 MHz, CDCl3): 1.30 (d, 8 Hz, 3H), 1.69 (m, 1H), 2.45 (m, 1H), 2.88 (m, 3H), 7.15-7.35 (m, 3H), 7.86 (d, 8 Hz, 1H).

reactant | 4-methyl-1-tetralone | 5.0 mmol, 801 mg | CC1CCC(C2=CC=CC=C12)=O | C11H12O
reactant | hydroxylamine hydrochloride | 6.0 mmol, 417 mg, 1.2 eq | Cl.NO
reactant | sodium bicarbonate | 6.0 mmol, 504 mg, 1.2 eq | C([O-])(O)=O.[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 4-Methyl-1-tetralone oxime | quantitative yield | CC1CCC(C2=CC=CC=C12)=NO | C11H13NO
